US08211908B2
To 85 mg of 1-(2-(4-((3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride, chloroform and a saturated aqueous sodium hydrogen carbonate solution were added, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resultant oily substance, 2 mL of methanol and 83 mg of a 28% sodium methoxide/methanol solution were added at room temperature, and the mixture was heated under reflux while stirring for 4 hours. After cooling to room temperature, water and chloroform were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant residue was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 53 mg of 1-(2-(4-((3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one as a light brown oily substance.

reactant | 1-(2-(4-((3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 85 mg | Cl.O1CCCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(4-((3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 53 mg | O1CCCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C25H31N5O4
